US07354920B2
b) (S,R) 2-(2-Chloro-phenyl)-1-(3-fluoro-phenyl)-1-morpholin-2-yl-ethanol hydrochloride
To a solution of 1-(4-Benzyl-morpholine-2-yl)-2-(2-chloro-phenyl)-1-(3-fluoro-phenyl)-ethanol. (3.2 g, 1 equiv.) in dry 1,2-dichloroethane (40 mL) under nitrogen atmosphere was added ACE-Cl (20.33 g, 5 equiv.). The reaction mixture was stirred at room temperature overnight then refluxed until completion. All volatiles were evaporated under vacuum, and the resulting residue redissolved in acetonitrile. This solution was filtered through an ion exchange column and the filtrate taken-up with methanol (50 mL) and refluxed for 3 h. The solution was again filtered through acid ion exchange column and the required fractions evaporated to dryness. The resulting solid was next purified via preparative HPLC followed by chiral HPLC. The purified active enantiomer was taken up in ethanol and hydrogen chloride was added (large excess of 2M solution in diethyl ether) and the mixture stirred. Then all the volatiles were evaporated in vacuo, to give 519 mg of the title compound as a white solid (18%). 1H NMR (300 MHz, DMSO D6) δ: 2.43-2.54 (m, 1H), 2.81-2.95 (m, 2H), 3.16-3.23 (m, 1H), 3.30-3.44 (m, 2H), 3.54 (bs, 1H), 3.92-4.00 (m, 1H), 4.15-4.23 (m, 2H), 6.96-7.29 (m, 8H), 9.32-9.45 (m, 2H). LCMS (12 minute method) [M+H]+=336.

reactant | 1-(4-Benzyl-morpholine-2-yl)-2-(2-chloro-phenyl)-1-(3-fluoro-phenyl)-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)Cl)(O)C1=CC(=CC=C1)F | C25H25ClFNO2
reactant | ACE-Cl | 20.33 g, 5 equiv. | CC(OC(=O)Cl)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | (S,R) 2-(2-Chloro-phenyl)-1-(3-fluoro-phenyl)-1-morpholin-2-yl-ethanol hydrochloride | 519 mg, 18% | Cl.ClC1=C(C=CC=C1)C[C@@](O)([C@H]1CNCCO1)C1=CC(=CC=C1)F | InChI=1S/C18H19ClFNO2.ClH/c19-16-7-2-1-4-13(16)11-18(22,17-12-21-8-9-23-17)14-5-3-6-15(20)10-14;/h1-7,10,17,21-22H,8-9,11-12H2;1H/t17-,18+;/m1./s1
